US05834468
A solution of 4-[3-(2-benzylphenyl)prop-1-enyl]benzoic acid (6.43 g) in THF (50 ml) containing 10% palladium on carbon (1 g) was stirred under an atmosphere of hydrogen (balloon) for 15 hours. The catalyst was removed by filtration and the residue obtained on removal of the solvent was purified by chromatography on silica. eluting with 5% methanol in dichloromethane, to give 4-[3-(2-benzylphenyl)propyl]benzoic acid, m.p. 135°-6° C.

reactant | 4-[3-(2-benzylphenyl)prop-1-enyl]benzoic acid | 6.43 g | C(C1=CC=CC=C1)C1=C(C=CC=C1)CC=CC1=CC=C(C(=O)O)C=C1 | C23H20O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 4-[3-(2-benzylphenyl)propyl]benzoic acid | C(C1=CC=CC=C1)C1=C(C=CC=C1)CCCC1=CC=C(C(=O)O)C=C1 | C23H22O2
